US05260325
Part A: Preparation of (S) N-[(2'-(triphenylmethyltetrazol-5-yl)biphenyl-4-yl) methyl]-phenylalanine t-butyl ester
L-phenylalanine t-butyl ester hydrochloride (Bachem Bioscience, Inc.) (1.0 g, 3.9 mmol) was suspended in ethyl acetate, washed with saturated NaHCO3 and brine, dried (MgSO4), filtered and the solvent removed in vacuo. This residue was dissolved in 20 mL of THF and 1.95 g (3.5 mmol) of 2'-(N-triphenylmethyl tetrazol-5-yl)-4-bromomethylbiphenyl (prepared as described in EP 0 324 377) and 0.54 mL (3.9 mmol) triethylamine were added. The reaction was stirred at room temperature for 5 days. The THF was removed in vacuo and the residue dissolved in ethyl acetate. This was extracted 3× with K2CO3 and 1× with brine, dried over (MgSO4), filtered, and the solvent removed in vacuo. The product was purified by silica gel chromatography eluting with ethyl acetate-hexanes to yield 0.61 g (25%) of a white glass.

reactant | L-phenylalanine t-butyl ester hydrochloride | 3.9 mmol, 1.0 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | 2'-(N-triphenylmethyl tetrazol-5-yl)-4-bromomethylbiphenyl | 3.5 mmol, 1.95 g | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | triethylamine | 3.9 mmol, 0.54 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(2'-(triphenylmethyltetrazol-5-yl)biphenyl-4-yl) methyl]-phenylalanine t-butyl ester | 0.61 g, 25% | C(C)(C)(C)OC([C@@H](NCC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C46H43N5O2
